US05302593
a) Preparation of 3-morpholinylpropylphthalimide
3-Bromopropylphthalimide (536 mg; 2.0 mmoles) and morpholine (0.35 ml; 4.0 mmoles) were dissolved in anhydrous ethyl ether (5 ml). Reaction times and process as per Example 1.

reactant | 3-Bromopropylphthalimide | 2.0 mmoles, 536 mg | BrCCCC1=C2C(C(=O)NC2=O)=CC=C1 | C11H10BrNO2
reactant | morpholine | 4.0 mmoles, 0.35 ml | N1CCOCC1 | C4H9NO
solvent | ethyl ether | 5 ml | C(C)OCC | C4H10O
product | 3-morpholinylpropylphthalimide | N1(CCOCC1)CCCC1=C2C(C(=O)NC2=O)=CC=C1 | C15H18N2O3
